US06521757B1
Vanillin isopropyl ether:
Isopropyl bromide (40.0 mL, 421 mmol) was added to a suspension of K2CO3 (48.0 g, 348 mmol) and vanillin (40 g, 263 mmol) in DMF (150 mL) and the stirring slurry heated to 80° C. for 15 h. The reaction mixture was then cooled to room temperature, diluted with diethyl ether (200 mL) and washed with H2O (4×200 mL), dried (MgSO4) and concentrated under reduced pressure giving the title compound as a slightly tan oil (51.0 g, 100%) which required no further purification. The spectra of this material are identical with that previously reported (M. F. Comber and M. V. Sargent, J. Chem. Soc., Perkin Trans. 1, 1991, 2783).

reactant | Isopropyl bromide | 421 mmol, 40.0 mL | C(C)(C)Br | C3H7Br
reactant | K2CO3 | 348 mmol, 48.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | vanillin | 263 mmol, 40 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | Vanillin isopropyl ether | C(C)(C)OC1=C(C=C(C=O)C=C1)OC | C11H14O3
